US09233979B2
2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)-N-(4-methoxybenzyl)ethanamine (268 mg, 0.391 mmol) and RuPhos pre-catalyst (16 mg, 0.02 mmol) were charged in a 1 dram vial, evacuated and backfilled with nitrogen and taken in 1,4-dioxane (2 mL). Added a solution of 2M NaOtBu in THF (0.5 ml, 0.978 mmol) and reaction heated to 55° C. for 1 hour. The reaction mixture was diluted with EtOAc and washed with water, brine, dried with sodium sulfate and concentrated. Purification of the residue by flash column (0-25% EtOAc-hexanes) gave 7-chloro-3-(4-methoxybenzyl)-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridine. MS ESI calc'd. for C35H29 ClN4O [M+H]+ 558. found 558.

reactant | 2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)-N-(4-methoxybenzyl)ethanamine | 0.391 mmol, 268 mg | ClC1=CC2=C(C(=N1)CCNCC1=CC=C(C=C1)OC)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C35H30ClIN4O
reactant | NaOtBu | 2M | CC(C)(C)[O-].[Na+]
reactant | THF | 0.978 mmol, 0.5 ml | C1CCOC1 | C4H8O
catalyst | RuPhos | 0.02 mmol, 16 mg | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-chloro-3-(4-methoxybenzyl)-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridine | ClC1=NC=2CCN(C=3C2C(=C1)N(N3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC3=CC=C(C=C3)OC | C35H29ClN4O
